US05348972
2-[2-(4,4-Dimethylchroman-6-yl)ethynyl]-5-acetoxymethylpyridine
A solution of 2.81 g (10 mmol) of 2-[2-(4,4-dimethylchroman-6-yl)ethynyl]-5-hydroxymethylpyridine, 600 mg (10 mmol) of glacial acetic acid, 2.06 g (10 mmol) of dicyclohexylcarbodiimide and 460 mg (3.765 mmol) of 4-dimethylaminopyridine in 150 ml methylene chloride is stirred at room temperature for 48 hours. The reaction mixture is then filtered and the residue washed with 50 ml of methylene chloride. The filtrate is then concentrated in vacuo and the residue is purified by chromatography followed by recrystallization to give the title compound.

reactant | 2-[2-(4,4-dimethylchroman-6-yl)ethynyl]-5-hydroxymethylpyridine | 10 mmol, 2.81 g | CC1(CCOC2=CC=C(C=C12)C#CC1=NC=C(C=C1)CO)C | C19H19NO2
reactant | acetic acid | 10 mmol, 600 mg | C(C)(=O)O | C2H4O2
reactant | dicyclohexylcarbodiimide | 10 mmol, 2.06 g | C1(CCCCC1)N=C=NC1CCCCC1 | C13H22N2
catalyst | 4-dimethylaminopyridine | 3.765 mmol, 460 mg | CN(C1=CC=NC=C1)C | C7H10N2
solvent | methylene chloride | 150 ml | C(Cl)Cl | CH2Cl2
product | 2-[2-(4,4-Dimethylchroman-6-yl)ethynyl]-5-acetoxymethylpyridine | CC1(CCOC2=CC=C(C=C12)C#CC1=NC=C(C=C1)COC(C)=O)C | C21H21NO3
